US04976874
Into a 250 ml 3-necked flask equipped with a magnetic stirrer was placed 13.49 g of 48% HBr (0.08 moles) and 60 ml of water. The solution was cooled in an ice bath and dimethyloctylamine (12.58g, 0.08 moles) added dropwise. After the last of the amine had been added (total addition time ca. 30 min) the solution was tested with litmus to assure that it was neutral or acidic, and the water then removed in vacuo. The residue was recrystalized from ethyl acetate and dried under vacuum to give the product, N,N-dimethyl-N-octylamine hydrobromide as a hygroscopic white solid, melting point 156°-158.5 ° C. (yield 14.01 g, 74%).

reactant | HBr | 0.08 moles, 13.49 g | Br | BrH
reactant | dimethyloctylamine | 0.08 moles, 12.58g | CN(CCCCCCCC)C | C10H23N
solvent | water | 60 ml | O | H2O
product | N,N-dimethyl-N-octylamine hydrobromide | Br.CN(CCCCCCCC)C | InChI=1S/C10H23N.BrH/c1-4-5-6-7-8-9-10-11(2)3;/h4-10H2,1-3H3;1H
